* C:\Users\Saraangan\Documents\LTspice\2.35\schematic.asc
* Generated by LTspice 26.0.1 for Windows.
D1 Out 0 D1
V1 N001 0 2
R1 Out N001 {R}
.model D D
.lib C:\Users\Saraangan\AppData\Local\LTspice\lib\cmp\standard.dio
.model D1 D(Is=5e-16)
.step param R 100 10k 50
.op
.backanno
.end
